US08168637B2
Step A. 4-Bromo-2,5-difluorobenzyl bromide
To a solution of 2 g (8.44 mmol) of 4-bromo-2,5-difluorobenzoic acid (prepared according to the procedure of Ishikawa et al., Kogyo Kagaku Zasshi, pg 972-979, 1970) in 20 mL of tetrahydrofuran was added 40 mL of a 1M solution of borane-tetrahydrofuran complex. The solution was heated under reflux for 64 h, cooled to ambient temperature and 100 mL of methanol was added. The reaction was then heated for a further 2 h, cooled and concentrated in vacuo. Purification by flash chromatography (silica gel, 9:1 hexane:ethyl acetate) afforded 1.6 g of 4-bromo-2,5-difluorobenzyl alcohol. To a solution of 1.3 g (5.6 mmol) of 4-bromo-2,5-difluorobenzyl alcohol in 20 mL of dichloromethane at 0° C. was added 2.27 g (6.7 mmol) of carbon tetrabromide and 1.8 g (6.7 mmol) of triphenylphosphine. The reaction was stirred for 2 h at this temperature, the solvent was removed in vacuo and the residue stirred with 100 mL of diethyl ether. The solution was filtered, concentrated in vacuo, and purified by flash chromatography (silica gel, 9:1 hexane:ethyl acetate) to afford 1.5 g of the title compound.

reactant | 4-bromo-2,5-difluorobenzyl alcohol | 5.6 mmol, 1.3 g | BrC1=CC(=C(CO)C=C1F)F | C7H5BrF2O
reactant | carbon tetrabromide | 6.7 mmol, 2.27 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 6.7 mmol, 1.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-Bromo-2,5-difluorobenzyl bromide | 1.5 g | BrC1=CC(=C(CBr)C=C1F)F | C7H4Br2F2
